US07592477B2
Step a) Formation of N-1,3-benzodioxol-5-yl-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 1,3-benzodioxol-5-ylamine gave the title compound as an oil. M+(LC/MS(ESI)): 408.4. HPLC (Condition A), Rt: 4.54 min (HPLC purity: 85.5%).

reactant | 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C17H22N2O2
reactant | 1,3-benzodioxol-5-ylamine | O1COC2=C1C=CC(=C2)N | C7H7NO2
product | N-1,3-benzodioxol-5-yl-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine | O1COC2=C1C=CC(=C2)NCC2=CC=C(C=C2)C2=NC(=NO2)CCCCCCCC | C24H29N3O3
